US06518423B1
Methyl 2-methoxy-4-(2-chloropyrazin-3-yl)thio-5-nitrobenzoate
To a solution of 6.45 g of methyl 4-mercapto-5-nitro-o-anisate in N,N-dimethylformamide (100 ml) were added 4.4 g of potassium carbonate and 4.75 g of 2,3-dichloropyrazine. Then the mixture was allowed to react at 80° C. for 2 hours. After adding ethyl acetate, the reaction mixture was washed with a saturated aqueous solution of sodium chloride and the organic layer was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 3.14 g of the title compound as a brown solid.

reactant | methyl 4-mercapto-5-nitro-o-anisate | 6.45 g | SC=1C=C(C(C(=O)OC)=CC1[N+](=O)[O-])OC | C9H9NO5S
reactant | potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dichloropyrazine | 4.75 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl 2-methoxy-4-(2-chloropyrazin-3-yl)thio-5-nitrobenzoate | 3.14 g | COC1=C(C(=O)OC)C=C(C(=C1)SC=1C(=NC=CN1)Cl)[N+](=O)[O-] | C13H10ClN3O5S
